US06172257B2
Preparation of Potassium Monomethyl Malonate (KMM)
111.6 g of KOH (1.8 mol) are dissolved in 500 g of methanol, and the solution is added to 264.2 g of dimethyl malonate (2 mol) in the course of 2 h at room temperature. The KPG agitator is operated during this at 50 rpm. This mixes the reaction suspension inadequately, broad edge zones remain virtually unmixed. The reaction suspension is then filtered and the filtration residue is washed with methanol and dried in vacuo. 214.2 g of KMM are is obtained, equivalent to a yield of 76% of theory having a DKM content of <0.2% by weight.

reactant | KOH | 1.8 mol, 111.6 g | [OH-].[K+]
reactant | dimethyl malonate | 2 mol, 264.2 g | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | methanol | 500 g | CO | CH4O
product | Potassium Monomethyl Malonate | yield of 76% | C(CC(=O)[O-])(=O)OC.[K+] | InChI=1S/C4H6O4.K/c1-8-4(7)2-3(5)6;/h2H2,1H3,(H,5,6);/q;+1/p-1
